US06797522B1
α-Bromo-p-toluic acid (21.5 g, 100 mmol) was added in five equal portions to 90% HNO3 (250 mL) at −10° C. The reaction mixtures were stirred at −10° C. for 3 h and poured into ice-water. After stirring at room temperature for 3 h, the white precipitate was filtered, collected and dried by air overnight to give ortho-nitro α-bromo-p-toluic acid (22.2 g, 85%) as slightly yellow solid.

reactant | α-Bromo-p-toluic acid | 100 mmol, 21.5 g | BrCC1=CC=C(C=C1)C(=O)O | C8H7BrO2
reactant | HNO3 | 250 mL | [N+](=O)(O)[O-] | HNO3
product | ortho-nitro α-bromo-p-toluic acid | 22.2 g, 85% | [N+](=O)([O-])C1=C(C=CC(=C1)C(=O)O)CBr | C8H6BrNO4
